US04096264
3.3 G. of potassium phenolate, 5.47 g. of 2-amino 5-iodopyridine and 1.78 g. of cuprous oxide in 150 ml. of dimethylacetamide are heated at reflux under a nitrogen atmosphere for 24 hours. The solvent is removed in vacuo and the residue is extracted with chloroform. Chromatography of the methylene chloride soluble portion with silica gel and elution with ethyl acetate yields 2-amino-5-phenoxy pyridine m.p. 67°-69° C.

reactant | potassium phenolate | C1(=CC=CC=C1)[O-].[K+]
reactant | 2-amino 5-iodopyridine | NC1=NC=C(C=C1)I | C5H5IN2
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 2-amino-5-phenoxy pyridine | NC1=NC=C(C=C1)OC1=CC=CC=C1 | C11H10N2O
